US06855833B2
A 5-necked flask equipped with mechanical overhead stirrer, gas inlet tube, reflux condenser and a thermometer was charged with 4-nitrophenol (100 g, 0.72 mol). Concentrated HCl 932%, 1.3 L), conc. H2SO4 (98%, 10 mL) and formaldehyde dimethylacetal (152.4 g, 2 moles) were added and the mixture was heated to 70° C. Gaseous HCl was bubbled through the mixture for 4 hours. During this time a thick white precipitate formed. The suspension was cooled to 0° C., the precipitate was isolated by vacuum filtration and the yellow powder was dried over night under vacuum to give 108.76 g of slightly impure 2-chloromethyl-4-nitrophenol (about 76% yield).

reactant | 4-nitrophenol | 0.72 mol, 100 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | HCl | 1.3 L | Cl | ClH
reactant | formaldehyde dimethylacetal | 2 moles, 152.4 g | COCOC | C3H8O2
solvent | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
product | 2-chloromethyl-4-nitrophenol | about 76% yield | ClCC1=C(C=CC(=C1)[N+](=O)[O-])O | C7H6ClNO3
